US04610981
4-Chloro-N-[8-(1H-imidazol-1-yl)octyl]benzenesulfonamide
The compound of this Example, mp 54°-56° C., was obtained when 4-chlorobenzenesulfonyl chloride was reacted with 1H-imidazole-1-octanamine by the procedure of Example 20.

reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 1H-imidazole-1-octanamine | N1(C=NC=C1)CCCCCCCCN | C11H21N3
product | 4-Chloro-N-[8-(1H-imidazol-1-yl)octyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCCN1C=NC=C1 | C17H24ClN3O2S
